US05380910
Preparation of 2-cyano-3'-methyl-1,1'-biphenyl
In the same manner as in Example 2, 3-bromotoluene and 2-chlorobenzonitrile were reacted at 85° C. for 3 hours, and the reaction solution was analyzed by gas chromatography. The results are shown in Table 1.

reactant | 3-bromotoluene | BrC=1C=C(C=CC1)C | C7H7Br
reactant | 2-chlorobenzonitrile | ClC1=C(C#N)C=CC=C1 | C7H4ClN
product | 2-cyano-3'-methyl-1,1'-biphenyl | C(#N)C1=C(C=CC=C1)C1=CC(=CC=C1)C | C14H11N
